### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial/Variables): universal property of `vars`

### PR DESCRIPTION
**Pull request by plp127**
Prove a theorem characterizing when `(p.vars : Set σ) ⊆ s`, and use it to golf some theorems.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 1]
```diff
@@ -70,6 +70,56 @@ def vars (p : MvPolynomial σ R) : Finset σ :=
   letI := Classical.decEq σ
   p.degrees.toFinset
 
+theorem coe_vars_subset_iff {p : MvPolynomial σ R} {s : Set σ} :
+    (p.vars : Set σ) ⊆ s ↔ p ∈ (rename ((↑) : s → σ)).range := by
+  unfold vars
+  rw [AlgHom.mem_range]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
  classical
  rw [MvPolynomial.vars_def, AlgHom.mem_range]
```

(keeping `vars_def` next to the definition, which makes more sense anyway).

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 2]
```diff
@@ -70,6 +70,56 @@ def vars (p : MvPolynomial σ R) : Finset σ :=
...
+        rw [hp]
+        apply coeff_rename_eq_zero
+        rintro m rfl
+        rw [coeff_killCompl, hp]
+      rw [mem_range_mapDomain_iff _ Subtype.val_injective, Subtype.range_coe] at hm
+      push Not at hm
+      obtain ⟨b, hb, hm⟩ := hm
+      contrapose! hb
+      apply h
+      rw [SetLike.mem_coe, @Multiset.mem_toFinset, mem_degrees]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
      rw [SetLike.mem_coe, Multiset.mem_toFinset, mem_degrees]
```

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 3]
```diff
@@ -70,6 +70,56 @@ def vars (p : MvPolynomial σ R) : Finset σ :=
...
+      exact ⟨m, hb, Finsupp.mem_support_iff.2 hm⟩
+  · rintro ⟨x, rfl⟩
+    rw [degrees_rename_of_injective Subtype.val_injective,
+      @Multiset.coe_toFinset, Set.ofPred_subset, Multiset.forall_mem_map_iff]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
      Multiset.coe_toFinset, Set.ofPred_subset, Multiset.forall_mem_map_iff]
```

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 4]
```diff
@@ -70,6 +70,56 @@ def vars (p : MvPolynomial σ R) : Finset σ :=
...
+theorem exists_rename_eq_of_vars_subset_range (p : MvPolynomial σ R) (f : τ → σ) (hfi : Injective f)
+    (hf : ↑p.vars ⊆ Set.range f) : ∃ q : MvPolynomial τ R, rename f q = p := by
+  rw [coe_vars_subset_iff, AlgHom.mem_range] at hf
+  obtain ⟨q, hq⟩ := hf
+  refine ⟨q.rename (Equiv.ofInjective f hfi).symm, ?_⟩
+  rw [rename_rename, Equiv.self_comp_ofInjective_symm, hq]
+
+theorem exists_rename_coe_vars_eq (p : MvPolynomial σ R) :
+    ∃ q : MvPolynomial p.vars R, rename (↑) q = p :=
+  exists_rename_eq_of_vars_subset_range p _ Subtype.val_injective Subtype.range_coe.ge
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
  exists_rename_eq_of_vars_subset_range p _ Subtype.val_injective Subtype.range_coe.superset
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 5]
```diff
@@ -70,6 +70,10 @@ def vars (p : MvPolynomial σ R) : Finset σ :=
   letI := Classical.decEq σ
   p.degrees.toFinset
 
+theorem vars_def [DecidableEq σ] (p : MvPolynomial σ R) : p.vars = p.degrees.toFinset := by
+  rw [vars]
+  convert! rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]: Does `rfl` work here?

Comment (plp127) [reply Mathlib/Algebra/MvPolynomial/Variables.lean]: Probably not, since the two sides have different `DecidableEq` instances

Comment (plp127) [reply Mathlib/Algebra/MvPolynomial/Variables.lean]: perhaps `congr` (or `congr!`) would be better here?

Comment (riccardobrasca) [reply Mathlib/Algebra/MvPolynomial/Variables.lean]: I agree. Can you also add a comment explaining why it doesn't work? Thanks!

Comment (plp127) [reply Mathlib/Algebra/MvPolynomial/Variables.lean]: I've changed this to `congr!`. I don't think adding a comment about this is in scope for this PR, this pattern of having a `letI := Classical.decEq Foo` and then proving a characterizing lemma with a `congr!` or a `convert! rfl` is not uncommon in the polynomial and mvpolynomial files, if you think they should all get such comments that can be done in a separate PR.

Comment (riccardobrasca) [reply Mathlib/Algebra/MvPolynomial/Variables.lean]: Ok, no worries.
